US04568741
Utilizing a procedure similar that used in Preparation 1, but beginning with N-formylmorpholine (346 gm, 3.01 mol) and phosgene (301 gm, 3.05 mol), a 65% yield (333 gm, 1.96 mol) of N-(chloromethylene)-morpholinium chloride is obtained.

reactant | N-formylmorpholine | 3.01 mol, 346 gm | C(=O)N1CCOCC1 | C5H9NO2
reactant | phosgene | 3.05 mol, 301 gm | C(=O)(Cl)Cl | CCl2O
product | N-(chloromethylene)-morpholinium chloride | 1.96 mol, 333 gm, 65% yield | [Cl-].ClC=[N+]1CCOCC1 | InChI=1S/C5H9ClNO.ClH/c6-5-7-1-3-8-4-2-7;/h5H,1-4H2;1H/q+1;/p-1
